### PR TITLE
fix: replace unary Nat.succ simp rules with simprocs

### PR DESCRIPTION
**Pull request by joehendrix**
This removes simp attributes from `Nat.succ.injEq` and `Nat.succ_sub_succ_eq_sub` to replace them with simprocs.  This is because any reductions involving `Nat.succ` has a high risk of leading proof performance problems when dealing with even moderately large numbers.

Here are a couple examples that will both report a maximum recursion depth error currently.  These examples are fixed by this PR.

```
example : (123456: Nat) = 12345667 := by
  simp

example (x : Nat) (p : x = 0) : 1000 - (x + 1000) = 0 := by
  simp
```

### CODE REVIEW

**Comment by digama0** [comment]
This seems like it would be better addressed by finding a way for that expression not to count as having the form `succ x - succ y`, either in this particular simp lemma or in the discrimination tree in general. Disabling it may be the best short term option, but this seems like a regression.

**Comment by joehendrix** [comment]
I'll take a stab at a simproc that covers this case, but I don't think this should be a reason to touch discriminator tree patterns (e.g., the logic in `isNatOffset`).  I expect that would have big downstream effects.

File: src/Init/Data/Nat/Basic.lean [hunk 1]
```diff
@@ -248,11 +248,12 @@ theorem lt_succ_of_le {n m : Nat} : n ≤ m → n < succ m := succ_le_succ
 
 @[simp] protected theorem sub_zero (n : Nat) : n - 0 = n := rfl
 
-@[simp] theorem succ_sub_succ_eq_sub (n m : Nat) : succ n - succ m = n - m := by
+theorem succ_sub_succ_eq_sub (n m : Nat) : succ n - succ m = n - m := by
   induction m with
   | zero      => exact rfl
   | succ m ih => apply congrArg pred ih
 
+
```
Comment (joehendrix) [inline src/Init/Data/Nat/Basic.lean:256]:
```suggestion
```

File: src/Init/Data/Nat/Bitwise/Lemmas.lean [hunk 2]
```diff
@@ -271,15 +272,16 @@ theorem testBit_two_pow_sub_succ (h₂ : x < 2 ^ n) (i : Nat) :
   induction i generalizing n x with
   | zero =>
     match n with
-    | 0 => simp
+    | 0 =>
+      simp [succ_sub_succ_eq_sub]
```
Comment (joehendrix) [inline src/Init/Data/Nat/Bitwise/Lemmas.lean:276]:
```suggestion
    | 0 => simp [succ_sub_succ_eq_sub]
```

**Comment by eric-wieser** [comment]
> * Mathlib branch [lean-pr-testing-3808](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-3808) built against this PR, but linting failed. (2024-04-04 21:47:46) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/8561215659)

@semorrison, this is misleading; the CI job "built", but the "build" step of the CI job failed.

File: src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean [hunk 3]
```diff
@@ -68,4 +65,264 @@ builtin_dsimproc [seval] isValue ((OfNat.ofNat _ : Nat)) := fun e => do
...
+  | const (n : Nat)
+  /-- denotes `e + o` where `o` is expression definitionally equal to `n` -/
+  | offset (e o : Expr) (n : Nat)
+
+/- Attempt to parse a `NatOffset` from an expression-/
+private partial def NatOffset.asOffset (e : Expr) : Meta.SimpM (Option (Expr × Nat)) := do
+  if e.isAppOfArity ``HAdd.hAdd 6 then
+    let inst := e.appFn!.appFn!.appArg!
+    unless inst.isAppOfArity ``instHAdd 2 do return none
+    unless inst.appArg!.isAppOfArity ``instAddNat 0 do return none
```
Comment (eric-wieser) [inline src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: This is going to fail if the instance is actually `AddMonoid.toAdd` from mathlib, which seems very likely to occur.

Comment (eric-wieser) [reply src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: A small repro:
```lean
import Mathlib.Data.Nat.Basic

example : 1 + 2 = 3 := by
  rewrite [add_comm]
  -- goal is no longer about `instAddNat`
  sorry
  ```

Comment (joehendrix) [reply src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: Could you make an example showing this?  Using `import Mathlib` is fine.

Comment (eric-wieser) [reply src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: @joehendrix: I just went back in time and posted one :)

Comment (eric-wieser) [reply src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: Note that this was fixed in mathlib in https://github.com/leanprover-community/mathlib/pull/18129

Comment (Vierkantor) [reply src/Lean/Meta/Tactic/Simp/BuiltinSimprocs/Nat.lean:80]: For reference, the pattern of matching operators by name and typeclasses by defeq is called "keyed matching". (I learned this name from [Reflexive tactics for algebra, revisited by Kazuhiko Sakaguchi](https://arxiv.org/abs/2202.04330), Section 3.2.)

**Comment by semorrison** [comment]
> > * Mathlib branch [lean-pr-testing-3808](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-3808) built against this PR, but linting failed. (2024-04-04 21:47:46) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/8561215659)
> 
> @semorrison, this is misleading; the CI job "built", but the "build" step of the CI job failed.

Indeed, now that the linter runs even when the build fails, we need to change the logic.
